US04670604
1 g of Raney nickel is added to a solution of 4 g of 3-(3-bromopropoxy)-nitrobenzene in 40 ml of tetrahydrofuran and the starting substance is hydrogenated at room temperature. The catalyst is filtered off and washed with tetrahydrofuran. Evaporation of the filtrate gives 3-(3-bromopropoxy)-aniline as a colourless oil.

reactant | 3-(3-bromopropoxy)-nitrobenzene | 4 g | BrCCCOC=1C=C(C=CC1)[N+](=O)[O-] | C9H10BrNO3
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(3-bromopropoxy)-aniline | BrCCCOC=1C=C(N)C=CC1 | C9H12BrNO
